US06740647B1
b) 5-Hydroxymethyl-4-chlorothiophene-3-carbonitrile
6.3 g (166 mmol) of sodium borohydride were added portionwise at 5° C. to a solution of 28.5 g (166 mmol) of 5-formyl-4-chlorothiophene-3-carbonitrile in 400 ml of rose slightly and the color changed to dark red. A vigorous evolution of gas was observed. After 10 minutes, the reaction mixture was concentrated under a water pump vacuum, taken up in 200 ml of ethyl acetate, extracted with 200 ml of 1 M hydrochloric acid and washed twice with in each case 250 ml of water and with saturated sodium chloride solution, the organic phase was dried over magnesium sulfate, the desiccant was filtered off, and the solvent was distilled off under a water pump vacuum at room temperature. This gave 22 g (76%) of the title compound as dark red oil which was employed in the following reactions without further purification. 1H NMR (270 MHz, DMSO-d6): δ=4.65 (bs, 1H), 5.95 (t, 2H), 8.6 (s, 1H).

reactant | sodium borohydride | 166 mmol, 6.3 g | [BH4-].[Na+]
reactant | 5-formyl-4-chlorothiophene-3-carbonitrile | 166 mmol, 28.5 g | C(=O)C1=C(C(=CS1)C#N)Cl | C6H2ClNOS
product | 5-Hydroxymethyl-4-chlorothiophene-3-carbonitrile | OCC1=C(C(=CS1)C#N)Cl | C6H4ClNOS
